US03968116
5-(Methylsulfonyl)-3-nitro-2-aminopyridine is reacted with trifluoroacetic anhydride to obtain 5-(methylsulfonyl)-3-nitro-2-(trifluoroacetamido)pyridine which when hydrogenated yields 6-(methylsulfonyl)-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)-pyridine, m.p., 265°-68°C.

reactant | 5-(Methylsulfonyl)-3-nitro-2-aminopyridine | CS(=O)(=O)C=1C=C(C(=NC1)N)[N+](=O)[O-] | C6H7N3O4S
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 5-(methylsulfonyl)-3-nitro-2-(trifluoroacetamido)pyridine | CS(=O)(=O)C=1C=C(C(=NC1)NC(C(F)(F)F)=O)[N+](=O)[O-] | C8H6F3N3O5S
